US04315000
A mixture of 5.9 g of 6-amino-3-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-3,5-dihydro-4H-imidazo-[4,5-c]pyridin-4-one, one g of 20% palladium on carbon, 5 ml of acetic acid, and 95 ml of methoxyethanol is hydrogenated at 50° C. and ca 3 atmospheres until hydrogen uptake ceases, the mixture is filtered, evaporated in vacuo, and co-evaporated with xylenes to provide a syrup which is dissolved in water and treated with 50 ml of wet IR-45 ion exchange resin. The resin is filtered, washed several times with boiling water and the combined filtrates are evaporated in vacuo to provide 2.5 g of crude product. Recrystallization from ethanol-water provides 0.42 g of 6-amino-3-β-D-arabinofuranosyl-3,5-dihydro-4H-imidazo[4,5-c]pyridin-4-one.

reactant | 6-amino-3-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-3,5-dihydro-4H-imidazo-[4,5-c]pyridin-4-one | 5.9 g | NC1=CC2=C(C(N1)=O)N(C=N2)[C@H]2[C@@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@H](O2)COCC2=CC=CC=C2 | C32H32N4O5
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
reactant | methoxyethanol | 95 ml | COC(C)O | C3H8O2
catalyst | palladium on carbon | [Pd] | Pd
solvent | water | O | H2O
product | 6-amino-3-β-D-arabinofuranosyl-3,5-dihydro-4H-imidazo[4,5-c]pyridin-4-one | 0.42 g | NC1=CC2=C(C(N1)=O)N(C=N2)[C@H]2[C@@H](O)[C@H](O)[C@H](O2)CO | C11H14N4O5
